US09289503B2
Preparation of (E)-ethyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate (Compound I-66)
Mono ethyl fumarate (commercially available) was subjected to the same reaction conditions outlined earlier in the preparation of (E)-methyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate. The desired product, namely (E)-ethyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z) -docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate, was obtained after purification by silica gel chromatography. MS (EI) calcd for C30H40N2O4: 496.33; found 497 (M+1).

reactant | Mono ethyl fumarate | C(\C=C\C(=O)[O-])(=O)OCC
reactant | (E)-methyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(/C=C/C(=O)OC)=O | C29H42N2O4
product | (E)-ethyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z) -docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(/C=C/C(=O)OCC)=O | C30H44N2O4
